US08808679B2
Synthesis of LHRH-PEG12-SH
LHRH (10 mg) was dissolved in a mixture of acetonitrile:water (1:1, 500 μL) and to it was added PEG12-SATA stock solution (9.2 μL, 0.0025 mmol, 1.9 mg). The resulting mixture was stirred for 3 h at ambient temperature. The product was purified by RP-HPLC followed by lyophilization (60% yield).

reactant | LHRH | 10 mg | CC(C)CC(C(=O)NC(CCCN=C(N)N)C(=O)N1CCCC1C(=O)NCC(=O)N)NC(=O)CNC(=O)C(CC2=CC=C(C=C2)O)NC(=O)C(CO)NC(=O)C(CC3=CNC4=CC=CC=C43)NC(=O)C(CC5=CN=CN5)NC(=O)C6CCC(=O)N6 | C55H75N17O13
reactant | PEG12 | C(COCCOCCOCCOCCOCCOCCOCCOCCOCCOCCO)O | C22H46O12
solvent | acetonitrile water | 500 μL | C(C)#N.O
product | LHRH PEG12 | 60% yield | CC(C)CC(C(=O)NC(CCCN=C(N)N)C(=O)N1CCCC1C(=O)NCC(=O)N)NC(=O)CNC(=O)C(CC2=CC=C(C=C2)O)NC(=O)C(CO)NC(=O)C(CC3=CNC4=CC=CC=C43)NC(=O)C(CC5=CN=CN5)NC(=O)C6CCC(=O)N6.C(COCCOCCOCCOCCOCCOCCOCCOCCOCCOCCO)O | InChI=1S/C55H75N17O13.C22H46O12/c1-29(2)19-38(49(80)67-37(9-5-17-60-55(57)58)54(85)72-18-6-10-43(72)53(84)62-25-44(56)75)66-46(77)26-63-47(78)39(20-30-11-13-33(74)14-12-30)68-52(83)42(27-73)71-50(81)40(21-31-23-61-35-8-4-3-7-34(31)35)69-51(82)41(22-32-24-59-28-64-32)70-48(79)36-15-16-45(76)65-36;23-1-3-25-5-7-27-9-11-29-13-15-31-17-19-33-21-22-34-20-18-32-16-14-30-12-10-28-8-6-26-4-2-24/h3-4,7-8,11-14,23-24,28-29,36-43,61,73-74H,5-6,9-10,15-22,25-27H2,1-2H3,(H2,56,75)(H,59,64)(H,62,84)(H,63,78)(H,65,76)(H,66,77)(H,67,80)(H,68,83)(H,69,82)(H,70,79)(H,71,81)(H4,57,58,60);23-24H,1-22H2
